US06586441B2
2-Amino-4-furan-2-yl-6-phenethyl-pyrimidine-5-carbonitrile
From (E)-2-Amino-4-furan-2-yl-6-styryl-pyrimidine-5-carbonitrile, hydrogen and palladium on charcoal in THF. ES-MS m/e (%): 291 (M+H+, 100).

reactant | (E)-2-Amino-4-furan-2-yl-6-styryl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)\C=C\C1=CC=CC=C1 | C17H12N4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | THF | C1CCOC1 | C4H8O
product | 2-Amino-4-furan-2-yl-6-phenethyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)CCC1=CC=CC=C1 | C17H14N4O
